US04202901
The mixture of 30.0 g of 5-(3-chloropropoxy)-2-pyridine methanol and 1,200 ml of water is stirred vigorously at 5°. To this mixture is added 31.0 of potassium permanganate in several portions during which time the temperature of the mixture rises to 25° and then the mixture is stirred at 25° for 30 minutes. Then the mixture is filtered, the precipitated manganese dioxide washed with several portions of water, the washing is combined with the filtrate and the resulting aqueous solution is adjusted to pH 5. Then the aqueous solution is evaporated to a small volume and the concentrate is extracted several times with ethyl acetate. After the extracts are combined, the combined ethyl acetate solution is washed and dried. The solution is filtered and the filtrate evaporated to yield 5-(3-chloropropoxy)-2-pyridinecarboxylic acid melting at 120°-121°.

reactant | 5-(3-chloropropoxy)-2-pyridine methanol | 30.0 g | ClCCCOC=1C=CC(=NC1)CO | C9H12ClNO2
reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | water | 1,200 ml | O | H2O
product | 5-(3-chloropropoxy)-2-pyridinecarboxylic acid | ClCCCOC=1C=CC(=NC1)C(=O)O | C9H10ClNO3
